US04698340
A mixture of 1.5 g of ethyl 4-(4-hydroxy-5-nitrophenyl)-6-methyl-2-phenyl-5-pyrimidinecarboxylate and 7.5 ml of acetic anhydride in 7 ml of tetrahydrofuran was stirred for 5 hours. The reaction mixture was evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (10:1). The fractions containing the desired product were combined and concentrated in vacuo. The crystalline residue was recrystallized from diethyl ether to give ethyl 4-(4-acetoxy-5-nitrophenyl)-6-methyl-2-phenyl-5-pyrimidinecarboxylate (0.23 g).

reactant | ethyl 4-(4-hydroxy-5-nitrophenyl)-6-methyl-2-phenyl-5-pyrimidinecarboxylate | 1.5 g | OC1=CC=C(C=C1[N+](=O)[O-])C1=NC(=NC(=C1C(=O)OCC)C)C1=CC=CC=C1 | C20H17N3O5
reactant | acetic anhydride | 7.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | ethyl 4-(4-acetoxy-5-nitrophenyl)-6-methyl-2-phenyl-5-pyrimidinecarboxylate | 0.23 g | C(C)(=O)OC1=CC=C(C=C1[N+](=O)[O-])C1=NC(=NC(=C1C(=O)OCC)C)C1=CC=CC=C1 | C22H19N3O6
